US04454120
D. BocTyr(tBu)MeD-MetNH(CH2)3Ph
By the method of part A of Example 5 and using triethylamine instead of diisopropylethylamine and chloroform as a cosolvent with tetrahydrofuran, N-(tert-butyloxycarbonyl)-O-(tert-butyl)-L-tyrosine (2.13 g.) was condensed with N2 -methyl-N-(3-phenylpropyl)-D-methioninamide hydrochloride (2.0 g.). The product, [N-(tert-butyloxycarbonyl)-O-(tert-butyl-L-tyrosyl]-N2 -methyl-N-(3-phenylpropyl)-D-methioninamide, was purified by crystallization, the first crop (1.51 g., m.r. 129°-130° C.) from ethyl acetate, the second crop (0.53 g.) from ethyl acetate-hexane.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | N-(tert-butyloxycarbonyl)-O-(tert-butyl)-L-tyrosine | 2.13 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O | C18H27NO5
reactant | N2 methyl-N-(3-phenylpropyl)-D-methioninamide hydrochloride | 2.0 g | N#N.Cl.CN[C@H](CCSC)C(=O)NCCCC1=CC=CC=C1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | BocTyr(tBu)MeD-MetNH(CH2)3Ph | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N([C@H](CCSC)C(=O)NCCCC1=CC=CC=C1)C)C(=O)OC(C)(C)C | C33H49N3O5S
